US09102662B2
N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-phenyl] cpd. 11
To a solution of 2-amino-N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-benzamide (1.9 g, 3.98 mmol) in dichloromethane (80 mL) were added tetrahydro-pyran-4-one (0.55 mL, 5.98 mmol), trifluoroacetic acid (4 mL) and tetramethylammonium triacetoxyborohydride (1.57 g, 5.98 mmol). The mixture was stirred at room temperature overnight, and then more tetramethylammonium triacetoxyborohydride (1.57 g) was added. After stirring for additional 3 hours at room temperature the mixture was diluted with dichloromethane, washed with 2N sodium hydroxide and brine, dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel using dichloromethane/methanol/NH3 5N in MeOH 96:4:0.5 as the eluant, affording 1.61 g of the title compound (72% yield).

reactant | 2-amino-N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-benzamide | 3.98 mmol, 1.9 g | NC1=C(C(=O)NC2=NNC3=CC=C(C=C23)CC2=CC(=CC(=C2)F)F)C=CC(=C1)N1CCN(CC1)C | C26H26F2N6O
reactant | tetrahydro-pyran-4-one | 5.98 mmol, 0.55 mL | O1CCC(CC1)=O | C5H8O2
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetramethylammonium triacetoxyborohydride | 5.98 mmol, 1.57 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | tetramethylammonium triacetoxyborohydride | 1.57 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide | 1.61 g, 72% yield | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O)C=C(C1)F | C31H34F2N6O2
